US04172943
{[5,5-Dimethyl-10-[4-(dimethylamino)butyryloxy]-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea hydrochloride (XIII)
The above-titled compound was prepared according to the method of Example 8 by reacting equimolar quantities of {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea and 4-(dimethylamino)butyric acid hydrochloride in the presence of dicyclohexylcarbodiimide.

reactant | {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N)C(C(CCCCC)C)C | C26H39N3O4
reactant | 4-(dimethylamino)butyric acid hydrochloride | Cl.CN(CCCC(=O)O)C
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | {[5,5-Dimethyl-10-[4-(dimethylamino)butyryloxy]-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)OC(CCCN(C)C)=O)C=2CN(CCC21)CC(=O)NC(=O)N)C | InChI=1S/C32H50N4O5.ClH/c1-8-9-10-12-21(2)22(3)23-17-26(40-29(38)13-11-15-35(6)7)30-24-19-36(20-28(37)34-31(33)39)16-14-25(24)32(4,5)41-27(30)18-23;/h17-18,21-22H,8-16,19-20H2,1-7H3,(H3,33,34,37,39);1H
